US04748239
(E) (cis)-1,3,4,5-tetrahydro-3-Hydroxy-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
A solution containing 5.26 g (14.6 mmol) of 1,3,4,5-tetrahydro-3-hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one and 19. (147 mmol) of anhydrous lithium iodide in 150 ml of dry pyridine was refluxed for one hour. After concentration, the crude product was dissolved in ethyl acetate, washed with 6M hydrochloric acid followed by saturated bicarbonate and dried over sodium sulfate. Concentration followed by trituration with ether gave 2.81 g of essentially pure cis isomer, melting point 173.5°-175.5° C. (dec).

reactant | 1,3,4,5-tetrahydro-3-hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 14.6 mmol, 5.26 g | OC1(C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O)C(=O)OC | C19H19NO5
reactant | lithium iodide | 147 mmol | [I-].[Li+]
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | (cis)-1,3,4,5-tetrahydro-3-Hydroxy-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | O[C@@H]1C(NC2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=CC=C2)=O | C17H17NO3
